US03952044
340 Milligrams of N-acetylamino-α-methylthiophenylacetic acid, 240 mg of isopropyl mercaptan, and 351 mg of potassium carbonate were added to 10 ml of a methanol-water mixture (9:1), and refluxed for 3 hours. Following a reduced pressure concentration of the reaction mixture to approximately 1 ml, 20 ml of water was added to the concentrate, which was then extracted with ethyl acetate. The organic phase was dried with Glauber's salt, and concentrated under reduced pressure. The residue was crystallized from an ether-n-hexane system, to provide 247 mg of α-acetylaminophenylacetic acid. The yield was 90%.

reactant | N-acetylamino-α-methylthiophenylacetic acid | C(C)(=O)NC(C(=O)O)(SC)C1=CC=CC=C1 | C11H13NO3S
reactant | isopropyl mercaptan | 240 mg | C(C)(C)S | C3H8S
reactant | potassium carbonate | 351 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol water | 10 ml | CO.O
solvent | water | approximately 1 ml | O | H2O
product | α-acetylaminophenylacetic acid | 247 mg, yield was 90% | C(C)(=O)NC(C(=O)O)C1=CC=CC=C1 | C10H11NO3
